US06420460B1
Triphenylcyclopropenylium hexafluorophosphate was synthesized through the metathesis of triphenylcyclopropenylium chloride with sodium hexafluorophosphate in acetonitrile. The resulting white crystalline compound had a melting point of 310° C.

reactant | triphenylcyclopropenylium chloride | [Cl-].C1(=CC=CC=C1)C1(C(=[C+]1)C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium hexafluorophosphate | F[P-](F)(F)(F)(F)F.[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | Triphenylcyclopropenylium hexafluorophosphate | F[P-](F)(F)(F)(F)F.C1(=CC=CC=C1)C1(C(=[C+]1)C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C21H15.F6P/c1-4-10-17(11-5-1)20-16-21(20,18-12-6-2-7-13-18)19-14-8-3-9-15-19;1-7(2,3,4,5)6/h1-15H;/q+1;-1
